US05834506
Dimethyl-sulfamic acid 5-tert-butyl-2-methyl-4-thiocyanato-phenyl ester
To a round bottom flask equipped with a condenser and magnetic stirrer were added 5-tert-butyl-2-methyl-4-thiocyanato-phenol prepared in Example GGG (1.5 g, 6.8 mmol), cesium carbonate (2.44 g, 7.49 mmol), and acetonitrile (30 mL). This slurry was brought to reflux for 15 minutes. Dimethyl sulfamoyl chloride (0.80 mL, 7.49 mmol) was added to the slurry via syringe. The reaction was quenched with brine and extracted with EtOAc; the organic layer was dried (MgSO4) and concentrated. The residue was submitted to column chromatography (7:3 hexane:EtOAc) to give the title compound. 1H NMR (CDCl3) δ 1.46 (s, 9 H), 2.22 (s, 3 H), 3.03 (s, 6 H), 7.30 (s, 1 H), 7.47 (s, 1 H).

reactant | 5-tert-butyl-2-methyl-4-thiocyanato-phenol | C(C)(C)(C)C=1C(=CC(=C(C1)O)C)SC#N | C12H15NOS
reactant | cesium carbonate | 7.49 mmol, 2.44 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Dimethyl sulfamoyl chloride | 7.49 mmol, 0.80 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | Dimethyl-sulfamic acid 5-tert-butyl-2-methyl-4-thiocyanato-phenyl ester | C(C)(C)(C)C=1C(=CC(=C(C1)OS(N(C)C)(=O)=O)C)SC#N | C14H20N2O3S2
